US06921763B2
4-Bromoaniline (0.300 g, 1.74 mmol) and 2-chloropyrimidine (0.200 g, 1.74 mmol) were heated neat at 150° C. in a 25 mL flask for 2 h. The reaction mixture was cooled to ambient temperature, and purification of the residue by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 13.8-15.9 min) afforded N-(4-bromophenyl)-N-(2-pyrimidinyl)amine as a yellow solid (0.135 g, 0.54 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 11.08 min; 1H NMR (DMSO-d6, 400 MHz) δ 9.78 (s, 1H), 8.50 (d, 2H), 7.76 (d, 2H), 7.45 (d, 2H), 6.87 (t, 1H).

reactant | 4-Bromoaniline | 1.74 mmol, 0.300 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2-chloropyrimidine | 1.74 mmol, 0.200 g | ClC1=NC=CC=N1 | C4H3ClN2
product | N-(4-bromophenyl)-N-(2-pyrimidinyl)amine | 0.54 mmol, 0.135 g | BrC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8BrN3
